US07326791B2
(c) 4-(3-formyl-5,6-dihydro-4H-cyclopentapyrazol-1-yl)-3-trifluoromethylbenzonitrile
4.7 mL (12.2 mmol) of sulfuric acid is added dropwise with stirring to a suspension of 32 g of silica gel in 175 mL of dichloromethane. Then 4.3 g (12.2 mmol) of 4-(3-dimethoxymethyl-5,6-dihydro-4H-cyclopentapyrazol-1-yl)-3-trifluoromethylbenzonitrile in 75 mL of dichloromethane is added and the mixture is stirred for 20 hours at ambient temperature. The silica gel is filtered off and the solution is concentrated. Yield: 3.7 g (99%).

reactant | sulfuric acid | 12.2 mmol, 4.7 mL | S(O)(O)(=O)=O | H2O4S
reactant | 4-(3-dimethoxymethyl-5,6-dihydro-4H-cyclopentapyrazol-1-yl)-3-trifluoromethylbenzonitrile | 12.2 mmol, 4.3 g | COC(C1=NN(C2=C1CCC2)C2=C(C=C(C#N)C=C2)C(F)(F)F)OC | C17H16F3N3O2
solvent | dichloromethane | 175 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 75 mL | ClCCl | CH2Cl2
product | 4-(3-formyl-5,6-dihydro-4H-cyclopentapyrazol-1-yl)-3-trifluoromethylbenzonitrile | C(=O)C1=NN(C2=C1CCC2)C2=C(C=C(C#N)C=C2)C(F)(F)F | C15H10F3N3O
